

*--------------------------------------------------------------
* Declaracao fonte DC (source signal)
*--------------------------------------------------------------
*vfonte buffer
*Vvdd1 vdd1 gnd 0.3
Vvdd1 vdd1 gnd 0.7

*fonte circuito
*Vvdd2 vdd2 gnd 0.3
Vvdd2 vdd2 gnd 0.7

*fonte carga
*Vvdd3 vdd3 gnd 0.3
Vvdd3 vdd3 gnd 0.7


Va a gnd 0.0
Vb b gnd 0.0

